US07087576B2
Preparation of 2-(2-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)-phenoxy]-phenyl}-1-methoxycarbonylethylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione hydrochloride (2.03 g, 4.65 mmol) and N-t-butoxycarbonylpyrrolidin-2-carboxylic acid (1 g, 4.65 mmol) in N,N-dimethylformamide (20 ml) was stirred for 1 h at 0° C. N,N′-Dicyclohexylcarbodiimide (0.96 g, 4.65 mmol) was added to this solution and stirring was continued for 2 h at ambient temperature. Water (150 ml) was added to the reaction mixture, stirred for 20 minutes, ethyl acetate (200 ml) was added and stirring continued for another 15 minutes. The organic layer was separated and washed with water (100 ml), dried over anhydrous sodium sulfate and concentrated to give the crude compound, which was purified by column chromatography (1.42 g, yield 51.2%).

reactant | 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione hydrochloride | 4.65 mmol, 2.03 g | Cl.NC(CC1=CC=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC
reactant | N-t-butoxycarbonylpyrrolidin-2-carboxylic acid | 4.65 mmol, 1 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)O | C10H17NO4
reactant | N,N′-Dicyclohexylcarbodiimide | 4.65 mmol, 0.96 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Water | 150 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)-phenoxy]-phenyl}-1-methoxycarbonylethylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | yield 51.2% | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)CC1C(NC(S1)=O)=O)C(=O)OC)=O | C30H35N3O8S
